US06642389B2
f] 4-{2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethoxy}-naphthalene-1-carbaldehyde
2.00 g of 2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethanol (7.37 mmol) was dissolved in 37 ml of toluene and treated successively at 0° C. with 1.27 g of 4-hydroxy-naphthalene-1-carbaldehyde (7.37 mmol), 1.93 g of triphenylphosphine (7.37 mmol), and 1.49 g (7.37 mmol) of DIAD. The cooling bath was then removed and stirring continued for 2 h. The reaction mixture was then evaporated to dryness in vacuo. Flash chromatography (SiO2, hexane/AcOEt=75/25), followed by boiling up in ether, delivered 1.28 g of the title compound as off-white crystals.

reactant | 2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethanol | 7.37 mmol, 2.00 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CCO | C13H12F3NO2
reactant | 4-hydroxy-naphthalene-1-carbaldehyde | 7.37 mmol, 1.27 g | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | triphenylphosphine | 7.37 mmol, 1.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 7.37 mmol, 1.49 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 37 ml | C1(=CC=CC=C1)C | C7H8
product | 4-{2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethoxy}-naphthalene-1-carbaldehyde | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CCOC1=CC=C(C2=CC=CC=C12)C=O | C24H18F3NO3
